US07582651B2
(1) Bis(4-fluorophenyl)methylformamide
A mixture of 4,4′-difluorobenzophenone (15.0 g, 68.7 mmol) and ammonium formate (35.3 g, 559 mmol) was stirred at 170° C. for 10 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give the objective product as a solid material.

reactant | 4,4′-difluorobenzophenone | 68.7 mmol, 15.0 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | ammonium formate | 559 mmol, 35.3 g | C(=O)[O-].[NH4+]
solvent | water | O | H2O
product | Bis(4-fluorophenyl)methylformamide | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)NC=O | C14H11F2NO
